US07495103B2
To a solution of 4,5-dioxo-1,4,5,6,7,8-hexahydro-quinoline-3-carboxylic acid ethyl ester (1.6 g, 6.8 mmol) in ethanol (100 mL) was added iodine (4.8 g, 19 mmol). The mixture was refluxed for 19 h and then concentrated under reduced pressure. The resulting solid was washed with ethyl acetate, water and acetone, and then recrystallized from DMF to give 5-hydroxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (700 mg, 43%).

reactant | 4,5-dioxo-1,4,5,6,7,8-hexahydro-quinoline-3-carboxylic acid ethyl ester | 6.8 mmol, 1.6 g | C(C)OC(=O)C1=CNC=2CCCC(C2C1=O)=O | C12H13NO4
reactant | iodine | 19 mmol, 4.8 g | II | I2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-hydroxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 700 mg, 43% | C(C)OC(=O)C1=CNC2=CC=CC(=C2C1=O)O | C12H11NO4
